US07820664B2
Step D: Methyl 2-(2-fluorophenylamino)-3,4-difluoro-5-((trimethylsilyl)ethynyl)benzoate:
To an oven dried flask charged with a solution of methyl 5-bromo-2-(2-fluorophenylamino)-3,4-difluorobenzoate (21.68 mmol, 8.1 g) in THF (116 ml), was added CuI (2.16 mmol, 0.4 g) and iPr2NH (43.36 mmol, 6.1 ml). After addition is completed, reaction was purged with Argon and Pd(PPh3)2Cl2 (3.73 mmol, 2.62 g) and TMS-acetylene (26.88 mmol, 3.7 ml) are added. The reaction mixture was stirred at room temperature for 16 h, concentrated and taken up in EtOAc. The organic fraction was washed with sat NH4Cl, brine, dried over MgSO4 and conc. The crude was purified by flash chromatography using 5% to 20% EtOAc in Hexane to afford the desired product 6.96 g (85%).

reactant | methyl 5-bromo-2-(2-fluorophenylamino)-3,4-difluorobenzoate | 21.68 mmol, 8.1 g | BrC=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)F)F)F | C14H9BrF3NO2
reactant | iPr2NH | 43.36 mmol, 6.1 ml | N(C(C)C)C(C)C | C6H15N
reactant | TMS-acetylene | 26.88 mmol, 3.7 ml | [Si](C)(C)(C)C#C | C5H10Si
solvent | THF | 116 ml | C1CCOC1 | C4H8O
catalyst | CuI | 2.16 mmol, 0.4 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 3.73 mmol, 2.62 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-(2-fluorophenylamino)-3,4-difluoro-5-((trimethylsilyl)ethynyl)benzoate | 6.96 g, 85% | FC1=C(C=CC=C1)NC1=C(C(=O)OC)C=C(C(=C1F)F)C#C[Si](C)(C)C | C19H18F3NO2Si
